Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])#[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.92761253607
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[O:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-1.77345439444
[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],1.57162102639
[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-3.63598181422
[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.02857156199
[H:1][C:2]#[C:4][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-2.48755120108
[C:3]([O:4][H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-6.04632491396
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:6],1.36675102375
[O:1]=[C:2]([C:3]([H:4])[O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])[O:5][C:6][H:7].[O:1]=[C:2][C:8]([H:9])([H:10])[H:11],4.57384178913
[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-7.75943330525
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2](=[O:3])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-0.56157935756
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:5](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4],1.93839127093
[C:4](#[C:5][C:6]([H:7])[H:8])[O:9][H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-5.38899952584
[H:14].[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.54974858763
[C:1]#[C:2][C@:3]([H:4])([C:5]#[C:6][H:7])[O:8][H:9]>>[C:1]#[C:2][C@:3]([H:4])([C:5]#[C:6][H:7])[O:8].[H:9],4.83239529822
[C:1].[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[O:8][H:9])\[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.9311581791400005
[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]1=[C:4]([O:5][C:6]([H:7])[H:8])[C:9]1([H:10])[H:11],-0.239379863779
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15],-5.267119259459999
[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[O:1]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-4.07026466
[H:1][C:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[H:1][C:2][O:3][C:4](=[C:5])[C:9]([H:10])([H:11])[H:12],7.9340907946
[H:4].[O:1]=[C:2]=[C:3][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.43796735741
[C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-5.14562606674
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[O:10][C:11]([H:12])([H:13])[H:14].[H:9],4.1313875689699975
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2][C:3][H:4],3.54434894898
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]([H:3])#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1],3.66007488015
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:4],1.93229245906
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4],1.75561474865
